US09034866B2
Synthesis of 8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide
A solution of ethyl 8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate (302 mg at 69% purity) in methanolic ammonia (7 mL of a 7.0M solution of ammonia in methanol, 49.0 mmol) was warmed to 44° C. for 72 hr in a pressure tube. After cooling to room temperature, the precipitous solution was evaporated to dryness in vacuo. The residue was re-suspended in methanol (1 mL) and the solid collected by filtration to furnish the title compound (155 mg, 0.40 mmol, 78%) as an off-white powder: 1H NMR (500 MHz, d6-DMSO) δ 1.47-1.49 (m, 2H), 2.83-2.91 (m, 2H), 3.40-3.44 (m, 1H), 3.60-3.68 (m, 1H), 7.10 (d, J=9.2 Hz, 1H), 7.42 (br. s, 1H), 7.82 (br, s, 1H), 8.64 (d, J=6.9 Hz, 1H), 13.08 (br. s, 1H); M+H=384

reactant | ethyl 8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxylate | 302 mg | FC1=CC2=C(C3=C(NC(=N3)C(=O)OCC)C3CC2C3)C=C1I | C16H14FIN2O2
reactant | ammonia | N | H3N
solvent | methanol | CO | CH4O
product | 8-fluoro-9-iodo-3,4,5,6-tetrahydro-4,6-methanobenzo[3,4]cyclohepta[1,2-d]imidazole-2-carboxamide | 0.40 mmol, 155 mg, 78% | FC1=CC2=C(C3=C(NC(=N3)C(=O)N)C3CC2C3)C=C1I | C14H11FIN3O
